US07528163B2
Step B: 1-(1-{2-[Cis-2,5-dipropylpyrrolidin-1-yl]-2-oxoethyl}-6-methoxy-1H-indazol-3-yl)-2,2-dimethylpropan-1-one
To a solution of 28.3 mg [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid from the Step E Example 44 in 1 mL DMF was added 23.0 mg HOBt, 23.3 mg cis-2,5-dipropylpyrrolidine from the Step A above, 38.3 mg EDC, and 45.2 mg DIEA in that order. The mixture was stirred at room temperature over night and purified by RP-HPLC using 70-100% MeCN gradient. The pure product fractions were pooled and lyophilized to give the title compound as white solid. LC-MS: 4.50 min. (m/Z=428.4, 450.3).

reactant | [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid | 28.3 mg | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O)(C)C | C15H18N2O4
reactant | HOBt | 23.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cis-2,5-dipropylpyrrolidine | 23.3 mg | C(CC)[C@@H]1N[C@@H](CC1)CCC | C10H21N
reactant | DIEA | 45.2 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 38.3 mg
product | 1-(1-{2-[Cis-2,5-dipropylpyrrolidin-1-yl]-2-oxoethyl}-6-methoxy-1H-indazol-3-yl)-2,2-dimethylpropan-1-one | C(CC)[C@@H]1N([C@@H](CC1)CCC)C(CN1N=C(C2=CC=C(C=C12)OC)C(C(C)(C)C)=O)=O | C25H37N3O3
